US07253198B2
To a solution of methyl 3-[(3-buten-1-ylsulfonyl)(2-propen-1-yl)amino]-5-propylbenzoate (D135) (1 g, 2.8 mmol, 1 equiv) in CH2Cl2 (200 ml) was added bis(tricyclohexylphosphino)benzylidene ruthenium (IV) dichloride (117 mg, 0.14 mmol, 0.05 equiv) and the resulting solution was stirred at room temperature for 48 h then concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (iso-hexane/AcOEt: 9:1) gave methyl 3-(1,1-dioxido-6,7-dihydro-1,2-thiazepin-2 (3H)-yl)-5-propylbenzoate (B117) (700 mg, 76%) as a pale purple oil. [M+H]+=324.4, RT=3.10 min.

reactant | methyl 3-[(3-buten-1-ylsulfonyl)(2-propen-1-yl)amino]-5-propylbenzoate | 2.8 mmol, 1 g, 1 equiv | C(CC=C)S(=O)(=O)N(C=1C=C(C(=O)OC)C=C(C1)CCC)CC=C | C18H25NO4S
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | bis(tricyclohexylphosphino)benzylidene ruthenium (IV) dichloride | 0.14 mmol, 117 mg, 0.05 equiv | C1(CCCCC1)P(C1CCCCC1)(C1CCCCC1)[Ru-2](=CC1=CC=CC=C1)(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)(Cl)Cl
product | methyl 3-(1,1-dioxido-6,7-dihydro-1,2-thiazepin-2 (3H)-yl)-5-propylbenzoate | 700 mg, 76% | O=S1(N(CC=CCC1)C=1C=C(C(=O)OC)C=C(C1)CCC)=O | C16H21NO4S
